US04349568
4-(3-Methyl-4-(methylsulfonyl)phenoxy)-1,2-dichlorobenzene
A slurry of 6.14 g of 4-chloro-2-methylphenyl methyl sulfone, 8.35 g of 3,4-dichlorophenol and 7.08 g of K2CO3 in 150 ml of sulfolane was heated at 170° C. for 7 hrs. The product (6.3 g, 63.4% yield) was isolated from the reaction mixture essentially as described in Example 18. Recrystallization from ethanol afforded purified 4-(3-methyl-4-(methylsulfonyl)phenoxy)-1,2-dichlorobenzene, mp 154°-156° C.

reactant | 4-chloro-2-methylphenyl methyl sulfone | 6.14 g | CS(=O)(=O)C1=C(C=C(C=C1)Cl)C | C8H9ClO2S
reactant | 3,4-dichlorophenol | 8.35 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | K2CO3 | 7.08 g | C(=O)([O-])[O-].[K+].[K+]
solvent | sulfolane | 150 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 4-(3-Methyl-4-(methylsulfonyl)phenoxy)-1,2-dichlorobenzene | 6.3 g, 63.4% yield | CC=1C=C(OC2=CC(=C(C=C2)Cl)Cl)C=CC1S(=O)(=O)C | C14H12Cl2O3S
